US07790732B2
c) 5-Chloro-4-methyl-2-methylsulfanyl-3,4-dihydro-quinazoline hydroiodide
Methyl iodide (1.16 ml, 19 mmol) was added to a suspension of 5-chloro-4-methyl-3,4-dihydro-1H-quinazoline-2-thione (1.32 g, 6.2 mmol) in acetone (15 ml), and the mixture was stirred at r.t. over the weekend (the reaction is usually complete after 12 h). The precipitated product (2.08 g, 87%) was sufficiently pure for the next step.

reactant | Methyl iodide | 19 mmol, 1.16 ml | CI | CH3I
reactant | 5-chloro-4-methyl-3,4-dihydro-1H-quinazoline-2-thione | 6.2 mmol, 1.32 g | ClC1=C2C(NC(NC2=CC=C1)=S)C | C9H9ClN2S
solvent | acetone | 15 ml | CC(=O)C | C3H6O
product | 5-Chloro-4-methyl-2-methylsulfanyl-3,4-dihydro-quinazoline hydroiodide | I.ClC1=C2C(NC(=NC2=CC=C1)SC)C | InChI=1S/C10H11ClN2S.HI/c1-6-9-7(11)4-3-5-8(9)13-10(12-6)14-2;/h3-6H,1-2H3,(H,12,13);1H
